US04762830
(a) Preparation of the starting material 5-tert-butyl-2-(4-aminophenoxy)-1,3,4-oxadiazole
7.3 g of pulverised KOH are added to 10.9 g of 4-aminophenol in 100 ml of dimethyl sulfoxide, and the mixture is stirred for 15 minutes. Then 20.4 g of 5-tert-butyl-2-methylsulfonyl-1,3,4-oxadiazole are added, the reaction mixture is stirred for 12 hours at room temperature and poured into ice water. The mixture is extracted with diethyl ether and the combined extracts are dried and concentrated by evaporation. Petroleum ether is added to the oily residue, whereupon the product crystallises. The product is then isolated by filtration and dried. Yield: 16.5 g (71% of theory). Melting point: 80°-81° C.

reactant | KOH | 7.3 g | [OH-].[K+]
reactant | 4-aminophenol | 10.9 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | 5-tert-butyl-2-methylsulfonyl-1,3,4-oxadiazole | 20.4 g | C(C)(C)(C)C1=NN=C(O1)S(=O)(=O)C | C7H12N2O3S
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 5-tert-butyl-2-(4-aminophenoxy)-1,3,4-oxadiazole | C(C)(C)(C)C1=NN=C(O1)OC1=CC=C(C=C1)N | C12H15N3O2
